US04608374
11-{1-[2-(Phenyl)ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine oxalate
To 50 ml DMF were added 11-(piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (4.5 g, 0.017 mole), (2-bromoethyl)-benzene (4.3 ml, 0.03 mole), milled K2CO3 (10.0 g, 0.07 mole) and KI (0.01 g). After stirring at 90° C. for four hours the mixture was cooled and filtered, and the filtrate was concentrated in vacuo to an oil. This oil was dissolved in ethyl acetate, washed twice with water and dried (saturated NaCl, anhydrous MgSO4).

reactant | 11-(piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.017 mole, 4.5 g | N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C17H20N2O
reactant | (2-bromoethyl)-benzene | 0.03 mole, 4.3 ml | BrCCC1=CC=CC=C1 | C8H9Br
reactant | K2CO3 | 0.07 mole, 10.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 11-{1-[2-(Phenyl)ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine oxalate | C(C(=O)O)(=O)O.C1(=CC=CC=C1)CCN1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | InChI=1S/C25H28N2O.C2H2O4/c1-2-7-20(8-3-1)12-16-26-17-13-21(14-18-26)25-23-10-6-15-27(23)19-22-9-4-5-11-24(22)28-25;3-1(4)2(5)6/h1-11,15,21,25H,12-14,16-19H2;(H,3,4)(H,5,6)
